US05688798
A suspension of 0.20 g (0.00080 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride in 10 ml of dimethylformamide was treated with 0.34 ml (0.0024 mol) of triethylamine and 0.19 g (0.00097 mol) of 6-phenyl-1,2,3,4-tetrahydro-isoquinoline and the mixture was stirred at room temperature under argon for 60 hours The mixture was completely freed from the solvents. The residue was partitioned between dichloromethane and water, extracted, chromatographed over silica gel with acetonitrile/methanol 5:1 as the eluent and digested in diethyl ether. 0.16 g (61%) of 2-methyl-5-(6-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-pyrimidin-4-ylamine was obtained as white crystals; m.p. 186°-188°. A further 0.03 g of pale yellow crystals was recovered from the mother liquor.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride | 0.00080 mol, 0.20 g | Cl.ClCC=1C(=NC(=NC1)C)N
reactant | triethylamine | 0.0024 mol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | 6-phenyl-1,2,3,4-tetrahydro-isoquinoline | 0.00097 mol, 0.19 g | C1(=CC=CC=C1)C=1C=C2CCNCC2=CC1 | C15H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methyl-5-(6-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-pyrimidin-4-ylamine | 0.16 g, 61% | CC1=NC=C(C(=N1)N)CN1CC2=CC=C(C=C2CC1)C1=CC=CC=C1 | C21H22N4
